US04229455
Step D: Preparation of 6-methyl-11-methyliminobenzo[5,6]cyclohepta[1,2-c]pyridine
A solution of titanium tetrachloride (0.7 ml., 0.006 mole) in benzene (20 ml.) is added rapidly to a stirred solution of methylamine (1.24 g., 0.04 mole) and 6-methylbenzo[5,6]cyclohepta[1,2-c]pyridin-11-one (2.21 g., 0.01 mole) in benzene (150 ml.). After 4 hours, anhydrous potassium carbonate is added and the reaction mixture is filtered. The filtrate is evaporated to a pale yellow oil, (2.95 g.).

reactant | methylamine | 0.04 mole, 1.24 g | CN | CH5N
reactant | 6-methylbenzo[5,6]cyclohepta[1,2-c]pyridin-11-one | 0.01 mole, 2.21 g | CC1=CC2=C(C=NC=C2)C(C2=C1C=CC=C2)=O | C15H11NO
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | benzene | 20 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 150 ml | C1=CC=CC=C1 | C6H6
catalyst | titanium tetrachloride | 0.006 mole, 0.7 ml | [Ti](Cl)(Cl)(Cl)Cl
product | 6-methyl-11-methyliminobenzo[5,6]cyclohepta[1,2-c]pyridine | CC1=CC2=C(C=NC=C2)C(C2=C1C=CC=C2)=NC | C16H14N2
